US07714022B2
4-[4-(2-Methyl-3,5-diphenyl-pyrrol-1-yl)-phenyl]-butyric acid:
A soln of 1,3-diphenyl-pentane-1,4-dione (104 mg; 0.412 mmol) and 4-(4-amino-phenyl)-butyric acid (89 mg; 0.497 mmol) in acetic acid (2 mL) was heated at 120° C. After 6 h, the reaction was concentrated on a rotary evaporator. Ethyl acetate (5 mL) was added and this washed with H2O (1×2 mL) and satd NaCl (1×3 mL). The organic portion was dried (MgSO4) and filtered through silica with an EtOAc wash. Crude product was adsorbed onto silica (0.3 g) then purified by MPLC (12 g of silica using a 0→50% EtOAc in hexanes gradient). Pure product was obtained as a white solid (115 mg; 71%). 1H NMR (CDCl3) δ 7.54-7.49 (m, 2H), 7.44-7.38 (m, 2H), 7.26-7.07 (m, 10H), 6.56 (s, 1H), 2.72 (t, J=7.6 Hz, 2H), 2.40 (t, J=7.4 Hz, 2H), 2.25 (s, 3H), 2.00 (m, 2H); LC-MS (ESI−) 394 ([M−H]−).

reactant | 1,3-diphenyl-pentane-1,4-dione | 0.412 mmol, 104 mg | C1(=CC=CC=C1)C(CC(C(C)=O)C1=CC=CC=C1)=O | C17H16O2
reactant | 4-(4-amino-phenyl)-butyric acid | 0.497 mmol, 89 mg | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 4-[4-(2-Methyl-3,5-diphenyl-pyrrol-1-yl)-phenyl]-butyric acid | CC=1N(C(=CC1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)O | C27H25NO2
